US03969345
21-(3'-Chloropropoxy)-3α-hydroxy-5α-pregnane-11,20-dione
The less polar residue, crude 21-(3'-chloropropoxy)-5α-pregnane-3,11,20-trione (1.1 g.) was treated with `stock` chloroiridic acid solution. The mixture was then refluxed for 24 hours, cooled and partitioned between water and ether. The organic layer was washed with water, dried (Na2SO4) and evaporated. The residue was subjected to preparative t.l.c. EtOAc/petrol 1:1 to give title compound (0.54 g.) as a white foam, [α]D + 73° (c 1.3).

reactant | 21-(3'-chloropropoxy)-5α-pregnane-3,11,20-trione | 1.1 g | ClCCCOCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)=O | C24H35ClO4
catalyst | chloroiridic acid | O.Cl.Cl.Cl[Ir](Cl)(Cl)Cl
product | 21-(3'-Chloropropoxy)-3α-hydroxy-5α-pregnane-11,20-dione | 0.54 g | ClCCCOCC([C@H]1CC[C@H]2[C@@H]3CC[C@H]4C[C@@H](CC[C@]4(C)[C@H]3C(C[C@]12C)=O)O)=O | C24H37ClO4
